US09371320B2
D) 2-(4-(7-bromo-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)-N-methylacetamide
To a solution of (4-(7-bromo-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetic acid (60 mg), methylamine hydrochloride (12.8 mg), HOBt (25 mg) and triethylamine (26 μL) in DMF (3 mL) was added EDCI hydrochloride (36 mg), and the mixture was stirred overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (57 mg).

reactant | (4-(7-bromo-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)acetic acid | 60 mg | BrC=1C2=C(C(=NC1)OC)C(=NN2C2=C(C=CC=C2F)F)C2=CC=C(C=C2)CC(=O)O | C21H14BrF2N3O3
reactant | methylamine hydrochloride | 12.8 mg | Cl.CN
reactant | HOBt | 25 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI hydrochloride | 36 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 26 μL | C(C)N(CC)CC | C6H15N
product | 2-(4-(7-bromo-1-(2,6-difluorophenyl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)phenyl)-N-methylacetamide | 57 mg | BrC=1C2=C(C(=NC1)OC)C(=NN2C2=C(C=CC=C2F)F)C2=CC=C(C=C2)CC(=O)NC | C22H17BrF2N4O2
